US09255110B2
A solution of 2-(5-chloro-2,4-dinitro-phenyl)-malonic acid tert-butyl ester ethyl ester (0.4 g) in a mixture of dichloromethane (3 mL) and trifluoroacetic acid (0.5 mL) was heated at 70° C. for 30 minutes in a sealed tube. The reaction mixture was then evaporated under reduced pressure and the residue was purified by flash chromatography (EtOac/hexane, 10/90) to afford 150 mg of (5-chloro-2,4-dinitro-phenyl)-acetic acid ethyl ester.

reactant | 2-(5-chloro-2,4-dinitro-phenyl)-malonic acid tert-butyl ester ethyl ester | 0.4 g | C(C)OC(C(C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-])=O | C15H17ClN2O8
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (5-chloro-2,4-dinitro-phenyl)-acetic acid ethyl ester | 150 mg | C(C)OC(CC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-])=O | C10H9ClN2O6
